US04259504
2-Cyano-4'-[1-(p-fluorophenyl)-1H-1,3,4-triazol-5-yl]acetanilide
A solution of 3.5 ml. of phosphorus trichloride in 25 ml. of acetonitrile is added dropwise to a stirred suspension of 19.0 g. of 5-(p-aminophenyl)-1-(p-fluorophenyl)-1H-1,2,4-triazole in a mixture of 15.6 ml. of triethylamine, 6.35 g. of cyanoacetic acid and 200 ml. of acetonitrile at room temperature over a period of one hour. The mixture is heated to boiling, giving a clear solution and kept at 90° C. for 2.5 hours. The suspension is filtered hot through diatomaceous earth. The filtrate is heated to boiling, 250 ml. of hot water is added and the solution is slowly cooled to 5° C. A 400 ml. portion of water is added and the solid is collected and recrystallized from ethanol giving the desired product as 19.0 g. of cream crystals, mp. 223°-225° C.

reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | 5-(p-aminophenyl)-1-(p-fluorophenyl)-1H-1,2,4-triazole | NC1=CC=C(C=C1)C1=NC=NN1C1=CC=C(C=C1)F | C14H11FN4
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Cyano-4'-[1-(p-fluorophenyl)-1H-1,3,4-triazol-5-yl]acetanilide | C(#N)CC(=O)NC1=CC=C(C=C1)C1=NN=CN1C1=CC=C(C=C1)F | C17H12FN5O
